US06894050B2
Preparation of Intermediate 3-Chloro-5-(3-chloro-benzyloxy)-pyrazine 1-oxide (I-3m)
A solution of 3-chloro-5-(3-chloro-benzyloxy)-pyrazine I-3l (500 mg, 1.97 mmol) in CHCl3 (10 ml) at 0° C. under a nitrogen atmosphere, was treated with 680 mg (3.94 mmol) m-chloroperbenzoic acid (mCPBA). The resulting mixture was allowed to warm to room temperature, stirred at 23° C. for 16 h, heated at reflux for 2 h and cooled to room temperature. The reaction mixture was treated with Ca(OH)2 (680 mg, 3.94 mmol), stirred at room temperature for 3 h and filtered. The solid was washed with CH2Cl2. The filtrate and washings were combined, dried over MgSO4 (anhydrous), filtered, and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc-hexanes 4:6) to provide 465 mg of the title compound (I-3m) as a white solid (87%).

reactant | 3-chloro-5-(3-chloro-benzyloxy)-pyrazine | 1.97 mmol, 500 mg | ClC=1C=NC=C(N1)OCC1=CC(=CC=C1)Cl | C11H8Cl2N2O
reactant | m-chloroperbenzoic acid | 3.94 mmol, 680 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Chloro-5-(3-chloro-benzyloxy)-pyrazine 1-oxide | 465 mg, 87% | ClC=1C=[N+](C=C(N1)OCC1=CC(=CC=C1)Cl)[O-] | C11H8Cl2N2O2
